US06936612B2
A solution of 4-(6-amino-pyridin-3-yl)-azepane-1-carboxylic acid tert-butyl ester (614 mg, 2.10 mmol) in toluene (10 mL) was refluxed in a Dean-Stark apparatus for 3 h. The heat was removed and when the reflux subsided 6-bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (700 mg, 1.89 mmol) was added. This mixture was refluxed for 12 h under N2. Succinic anhydride (500 mg) was added and the reflux continued for 3 h. The reaction mixture was cooled and dissolved in ethyl acetate (100 ml) and the organic layer was washed with water (100 mL total). The organic layer was dried over magnesium sulfate and the solvents evaporated. The crude product was subjected to chromatography on silica gel and eluted with a chloroform/2-propanol gradient to give 4-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-azepane-1-carboxylic acid tert-butyl ester as a yellow powder (414 mg, 0.82 mmol). MS (APCI+) 500, 600 (M+1, 100).

reactant | 4-(6-amino-pyridin-3-yl)-azepane-1-carboxylic acid tert-butyl ester | 2.10 mmol, 614 mg | C(C)(C)(C)OC(=O)N1CCC(CCC1)C=1C=NC(=CC1)N | C16H25N3O2
reactant | 6-bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.89 mmol, 700 mg | BrC1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C14H16BrN3O2S
reactant | Succinic anhydride | 500 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-azepane-1-carboxylic acid tert-butyl ester | 0.82 mmol, 414 mg | C(C)(C)(C)OC(=O)N1CCC(CCC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2 | C29H37BrN6O3
